US09428528B2
Step 2 Preparation of 2,2-Difluoro-1-((4S,5R)-4-fluoromethyl-5-{4-[6-(1-hydroxy-ethyl)-pyridin-3-yl]-phenyl}-2,2-dimethyl-oxazolidin-3-yl)-ethanone
To a stirred solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (3 g, 7.26 mmol) and 1-(5-Bromo-pyridin-2-yl)-ethanol (1.46 g, 7.26 mmol) in toluene: ethanol: water (15:15:7 mL) is added Na2CO3 (2.3 g, 21.79 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 30 minutes then Pd(PPh3)4 (0.839 g, 0.726 mmol) is added. The reaction mixture is heated to 100° C. for 16 hours. Solvent is evaporated in vacuo and the crude material is purified by combi-flash using 55% ethyl acetate in hexane as an eluent to afford the title compound (2.2 g). 1H NMR (400 MHz, DMSO-d6) δ: 1.39 (d, J=6.6 Hz, 3H), 1.53 (s, 3H), 1.60 (s, 3H), 4.57-4.58 (m, 0.5H), 4.69-4.70 (m, 1H), 4.75-4.77 (m, 1H), 4.78-7.80 (m, 0.5H), 4.89-4.94 (m, 1H), 5.26 (d, J=3.88 Hz, 1H), 5.41 (d, J=4.6 Hz, 1H), 6.64 (t, J1=52.32 Hz, 1H), 7.57-7.64 (m, 3H), 7.77 (d, J=8.16 Hz, 2H), 8.08 (dd, J1=8.2 Hz, J2=2.32 Hz, 1H), 8.80 (d, J=2.04 Hz, 1H). LC-Ms (m/z): 409 [M+H].

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 7.26 mmol, 3 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | 1-(5-Bromo-pyridin-2-yl)-ethanol | 7.26 mmol, 1.46 g | BrC=1C=CC(=NC1)C(C)O | C7H8BrNO
reactant | Na2CO3 | 21.79 mmol, 2.3 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene ethanol water | 7 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | Pd(PPh3)4 | 0.726 mmol, 0.839 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-Difluoro-1-((4S,5R)-4-fluoromethyl-5-{4-[6-(1-hydroxy-ethyl)-pyridin-3-yl]-phenyl}-2,2-dimethyl-oxazolidin-3-yl)-ethanone | 2.2 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(C)O)(C)C)F | C21H23F3N2O3
